US08859544B2
Ethyl 6-[(2-methylindolizin-3-yl)carbonyl]-4-oxo-1,4-dihydroquinoline-3-carboxylate
1.69 ml of diethyl ethoxymethylene malonate are added, under an inert atmosphere at ambient temperature, to 1.83 g (6.8 mmol) of (4-aminophenyl)(2-methylindolizin-3-yl)methanone in 23 ml of toluene. The reaction medium is heated at 110° C. for 1 h 45 and then concentrated under reduced pressure. The residue obtained is dissolved in 45 ml of diphenyl ether and then heated at 230° C. for 30 minutes. After the addition of diisopropyl ether at ambient temperature, the precipitate formed is filtered off, rinsed with diisopropyl ether, with methanol and then with dichloromethane, and dried under reduced pressure at 50° C. overnight 1.2 g of a yellow powder are obtained.

reactant | diethyl ethoxymethylene malonate | 1.69 ml | CCOC=C(C(=O)OCC)C(=O)OCC | C10H16O5
reactant | (4-aminophenyl)(2-methylindolizin-3-yl)methanone | 6.8 mmol, 1.83 g | NC1=CC=C(C=C1)C(=O)C1=C(C=C2C=CC=CN12)C | C16H14N2O
reactant | diisopropyl ether | C(C)(C)OC(C)C | C6H14O
solvent | toluene | 23 ml | C1(=CC=CC=C1)C | C7H8
solvent | diphenyl ether | 45 ml | C1(=CC=CC=C1)OC1=CC=CC=C1 | C12H10O
product | Ethyl 6-[(2-methylindolizin-3-yl)carbonyl]-4-oxo-1,4-dihydroquinoline-3-carboxylate | CC=1C=C2C=CC=CN2C1C(=O)C=1C=C2C(C(=CNC2=CC1)C(=O)OCC)=O | C22H18N2O4
